US06407116B1
Ethyl 2,4-dioxo-6-(2-methoxyethoxy)methoxy-1,2,3,4-tetrahydroquinazoline-3-valerate
To a suspension of ethyl 2,4-dioxo-6-hydroxy-1,2,3,4-tetrahydroquinazoline-3-valerate (3.50 g, 11.8 mmol) obtained in Reference Example 149 in dichloromethane (35.0 ml), N,N-diisopropylethylamine (2.05 ml, 17.7 mmol) and 2-methoxyethoxymethyl chloride (2.02 ml, 17.7 mmol) were added dropwise with cooling on ice, and the reaction mixture was stirred at room temperature for 18 hours. The solvent was distilled off under reduced pressure, and the residue was combined with water and extracted with ethyl acetate. After the extract was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure to give the title compound (3.68 g, 79%). Recrystallization from ethyl acetate-ethyl ether yielded a colorless crystal having a melting point of 105 to 107° C.

reactant | ethyl 2,4-dioxo-6-hydroxy-1,2,3,4-tetrahydroquinazoline-3-valerate | 11.8 mmol, 3.50 g | O=C1NC2=CC=C(C=C2C(N1CCCCC(=O)OCC)=O)O | C15H18N2O5
reactant | N,N-diisopropylethylamine | 17.7 mmol, 2.05 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-methoxyethoxymethyl chloride | 17.7 mmol, 2.02 ml | COCCOCCl | C4H9ClO2
solvent | dichloromethane | 35.0 ml | ClCCl | CH2Cl2
product | Ethyl 2,4-dioxo-6-(2-methoxyethoxy)methoxy-1,2,3,4-tetrahydroquinazoline-3-valerate | 3.68 g, 79% | O=C1NC2=CC=C(C=C2C(N1CCCCC(=O)OCC)=O)OCOCCOC | C19H26N2O7
